US03932663
β-Methylaminoethyltriphenylphosphonium bromide was reacted with di-4-biphenylyl ketone by the method of Example 1 to give 1,1-di(4-biphenylyl-3-methylaminoprop-1-ene ene identical with that described in Example 4.

reactant | β-Methylaminoethyltriphenylphosphonium bromide | [Br-].CNCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | di-4-biphenylyl ketone | C1(=CC=C(C=C1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H18O
product | 4-biphenylyl-3-methylaminoprop-1-ene ene | C1(=CC=C(C=C1)C=C=CNC)C1=CC=CC=C1 | C16H15N
